US07129232B2
To a solution of (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)[(2-tert-butoxy-1,1-dimethyl-2-oxoethoxy)imino]ethanoic acid (5 g) in a mixture of tetrahydrofuran (80 ml) and N,N-dimethylformamide (20 ml) was added a solution of sodium bis(trimethylsilyl)amide (8.33 g) in tetrahydrofuran (12 ml), and the mixture was stirred for 15 minutes. To the reaction mixture was added a solution of di-tert-butyl dicarbonate (3.3 g) in tetrahydrofuran (20 ml) under ice-cooling, and the mixture was stirred under ice-cooling for 3 hours. To the reaction mixture was added ethyl acetate, and the mixture was washed with 10% aqueous potassium hydrogen sulfate solution, and then washed with a phosphate buffer (pH 6.86). The organic layer was separated, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with diisopropyl ether and dried in vacuo to give (Z)-2-{5-[(tert-butoxycarbonyl)amino]-1,2,4-thiadiazol-3-yl}[(2-tert-butoxy-1,1-dimethyl-2-oxoethoxy)imino]ethanoic acid (3.10 g).

reactant | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)[(2-tert-butoxy-1,1-dimethyl-2-oxoethoxy)imino]ethanoic acid | 5 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OC(C(=O)OC(C)(C)C)(C)C | C12H18N4O5S
reactant | sodium bis(trimethylsilyl)amide | 8.33 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | 3.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (Z)-2-{5-[(tert-butoxycarbonyl)amino]-1,2,4-thiadiazol-3-yl}[(2-tert-butoxy-1,1-dimethyl-2-oxoethoxy)imino]ethanoic acid | 3.10 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)O)=N/OC(C(=O)OC(C)(C)C)(C)C | C17H26N4O7S
